data/polar.json
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[O:1]=[S:5](=[O:2])([C:7]([F:27])([F:28])[F:29])[c:24]1[cH:19][c:6]2[n+:10]([O-:4])[o:26][n:13][c:31]2[c:23]([N+:14]([O-:11])=[O:22])[cH:25]1.[cH:3]1[cH:15][cH:9][c:20]2[c:8]([cH:30]1)[CH:32]([Zn-:18]([Cl:16])[Cl:17])[CH:21]=[CH:12]2>>[Cl:16][Zn:18][Cl:17].[O:1]=[S:5](=[O:2])([C:7]([F:27])([F:28])[F:29])[C:24]1=[CH:25][C:23](=[N+:14]([O-:11])[O-:22])[c:31]2[c:6]([n+:10]([O-:4])[o:26][n:13]2)[CH:19]1[CH:32]1[c:8]2[c:20]([cH:9][cH:15][cH:3][cH:30]2)[CH:12]=[CH:21]1", "epd": [["Sigma-/Sigma+", [32, 18], [32, 19]], ["Pi-/Pi+", [19, 24], [24, 25]], ["Pi-/Pi+", [25, 23], [23, 14]], ["Pi-/LP+", [14, 22], [22]]]}
{"reaction_name": "Reductive debenzylation", "rsmi": "[H+:8].[H-:16].[cH:1]1[cH:4][cH:13][cH:5][cH:2][c:10]1[CH2:11][O:9][c:3]1[cH:6][cH:14][cH:12][cH:15][cH:7]1>>[c:3]1([O:9][H:8])[cH:6][cH:14][cH:12][cH:15][cH:7]1.[cH:1]1[cH:4][cH:13][cH:5][cH:2][c:10]1[CH2:11][H:16]", "epd": [["LP-/Sigma+", [16], [11, 16]], ["Sigma-/LP+", [9, 11], [9]], ["LP-/Sigma+", [9], [8, 9]]]}
{"reaction_name": "π-Nucleophile capture of a preformed localized carbocation", "rsmi": "[CH3:1][CH2:17][c:18]1[c:3]([CH3:26])[cH:4][nH:10][c:9]1[CH3:2].[cH:5]1[c:11]([CH+:25][c:12]2[cH:6][c:15]([F:21])[cH:24][c:16]([F:22])[cH:7]2)[cH:8][c:13]([F:19])[cH:23][c:14]1[F:20]>>[CH3:1][CH2:17][C:18]1=[C:3]([CH3:26])[CH:4]([CH:25]([c:11]2[cH:5][c:14]([F:20])[cH:23][c:13]([F:19])[cH:8]2)[c:12]2[cH:6][c:15]([F:21])[cH:24][c:16]([F:22])[cH:7]2)[NH+:10]=[C:9]1[CH3:2]", "epd": [["LP-/Pi+", [10], [9, 10]], ["Pi-/Pi+", [18, 9], [3, 18]], ["Pi-/Sigma+", [4, 3], [4, 25]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[N+:1]([c:7]1[cH:2][n:6][c:11]2[c:18]([n+:4]([O-:3])[o:8][n:29]2)[cH:19]1)(=[O:23])[O-:26].[cH:5]1[cH:15][cH:9][c:22]([C:17](=[C:12]2[N:13]([CH3:27])[C:20]([CH3:25])=[C:30]([CH3:28])[S:21]2)[O:24][CH3:14])[cH:10][cH:16]1>>[N+:1](=[C:7]1[CH:2]=[N:6][c:11]2[c:18]([n+:4]([O-:3])[o:8][n:29]2)[CH:19]1[C:17]([c:12]1[n+:13]([CH3:27])[c:20]([CH3:25])[c:30]([CH3:28])[s:21]1)([c:22]1[cH:9][cH:15][cH:5][cH:16][cH:10]1)[O:24][CH3:14])([O-:23])[O-:26]", "epd": [["LP-/Pi+", [13], [12, 13]], ["Pi-/Sigma+", [17, 12], [17, 19]], ["Pi-/Pi+", [19, 7], [7, 1]], ["Pi-/LP+", [1, 23], [23]]]}
{"reaction_name": "Aza-Michael addition", "rsmi": "[C:1](#[N:7])[C:13]([C:2]#[N:8])=[CH:3][c:14]1[cH:5][cH:11][cH:15][cH:12][cH:6]1.[N+:4](=[N-:9])=[N-:10]>>[C:1](=[N-:7])=[C:13]([C:2]#[N:8])[CH:3]([N-:9][N+:4]#[N:10])[c:14]1[cH:5][cH:11][cH:15][cH:12][cH:6]1", "epd": [["LP-/Pi+", [10], [4, 10]], ["Pi-/Sigma+", [9, 4], [9, 3]], ["Pi-/Pi+", [3, 13], [13, 1]], ["Pi-/LP+", [1, 7], [7]]]}
{"reaction_name": "SNAr addition–elimination", "rsmi": "[NH2-:6].[cH:1]1[c:3]([N+:4](=[O:5])[O-:10])[cH:2][cH:9][c:7]([F:11])[cH:8]1>>[F-:11].[cH:1]1[c:3]([N+:4](=[O:5])[O-:10])[cH:2][cH:9][c:7]([NH2:6])[cH:8]1", "epd": [["LP-/Sigma+", [6], [6, 7]], ["Sigma-/LP+", [7, 11], [11]]]}
{"reaction_name": "Anionic nucleophile capture of a preformed localized carbocation", "rsmi": "[c:1]1([O:5][CH3:11])[c:12]([B-:13]([F:2])([F:3])[F:4])[s:25][cH:6][cH:20]1.[cH:7]1[c:14]([CH+:28][c:15]2[cH:8][c:18]([F:23])[cH:27][c:19]([F:24])[cH:9]2)[cH:10][c:16]([F:21])[cH:26][c:17]1[F:22]>>[C:1]1([O:5][CH3:11])=[CH:20][CH:6]([CH:28]([c:14]2[cH:7][c:17]([F:22])[cH:26][c:16]([F:21])[cH:10]2)[c:15]2[cH:8][c:18]([F:23])[cH:27][c:19]([F:24])[cH:9]2)[S+:25]=[C:12]1[B-:13]([F:2])([F:3])[F:4]", "epd": [["LP-/Pi+", [25], [12, 25]], ["Pi-/Pi+", [1, 12], [20, 1]], ["Pi-/Sigma+", [6, 20], [6, 28]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[O:1]=[S:18](=[O:2])([N:17]([S:13][C:7]([F:10])([F:11])[F:12])[S:19](=[O:3])(=[O:4])[c:40]1[cH:24][cH:35][cH:28][cH:36][cH:25]1)[c:39]1[cH:22][cH:33][cH:27][cH:34][cH:23]1.[cH:5]1[cH:8][c:46]([B-:47]2([c:21]3[s:32][c:20]([CH3:38])[cH:26][cH:41]3)[O:15][c:48]3[cH:43][cH:45][cH:44][cH:42][c:49]3[O:16]2)[cH:9][cH:6][c:14]1[C:37]([F:29])([F:30])[F:31]>>[C:7]([F:10])([F:11])([F:12])[S:13][c:21]1[s:32][c:20]([CH3:38])[cH:26][cH:41]1.[O:1]=[S:18](=[O:2])([N-:17][S:19](=[O:3])(=[O:4])[c:40]1[cH:24][cH:35][cH:28][cH:36][cH:25]1)[c:39]1[cH:22][cH:33][cH:27][cH:34][cH:23]1.[cH:5]1[cH:8][c:46](-[b-:47]2[o+:15][c:48]3[cH:43][cH:45][cH:44][cH:42][c:49]3[o:16]2)[cH:9][cH:6][c:14]1[C:37]([F:29])([F:30])[F:31]", "epd": [["LP-/Pi+", [15], [47, 15]], ["Sigma-/Sigma+", [21, 47], [21, 13]], ["Sigma-/LP+", [13, 17], [17]]]}
{"reaction_name": "Hosomi–Sakurai allylation", "rsmi": "[CH2:1]([Si:4]([CH3:5])([CH3:6])[CH3:7])[CH:13]=[CH2:9].[CH3:2][O:11][CH:8]([CH3:10])[O:12][CH3:3]>>[CH2:1]([CH:8]([CH3:10])[O:11][CH3:2])[CH:13]=[CH2:9].[CH3:3][O-:12].[Si+:4]([CH3:5])([CH3:6])[CH3:7]", "epd": [["Sigma-/Sigma+", [1, 4], [1, 8]], ["Sigma-/LP+", [8, 12], [12]]]}
